US07713996B2
A solution of 1-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carboxylic acid (30 mg, 0.082 mmol) in acetone (0.9 ml) was treated with N-methylmorpholine (0.025 ml, 2.4 equiv.) and cyanuric chloride (18 mg, 0.098 mmol, 1.2 equiv.) and stirred at room temperature for 2 hours. 4-Chloro-phenyl-amine (12 mg, 0.098 mol, 1.2 equiv.) was then added, and the mixture was stirred for 12 hours at room temperature. The solvent was evaporated, and the residue dissolved in methanol (2.5 ml) and purified by preparative HPLC (ZORBAX Eclipse XDB-C18, 21.2×50 mm, 5 μm, gradient acetonitrile/water+0.1% formic acid). 1-(5-Chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carboxylic acid (4-chloro-phenyl)-amide was obtained as a white solid, 10.6 mg (27%). MS (ISP): m/e=474.9, 477.8 (M−H), δH (300 MHz; d6-DMSO) 10.33 (1H, s), 7.86 (1H, d), 7.79 (2H, d), 7.71 (1H, s), 7.69 (1H, d), 7.60 (1H, d), 7.40 (2H, d), 7.35 (1H, d), 7.21 (1H, d), 4.10 (2H, t), 3.66 (3H, s), 3.12 (2H, t).

reactant | 1-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carboxylic acid | 0.082 mmol, 30 mg | ClC=1C=CC(=C(C1)S(=O)(=O)N1CCC2=CC=C(C=C12)C(=O)O)OC | C16H14ClNO5S
reactant | N-methylmorpholine | 0.025 ml, 2.4 equiv. | CN1CCOCC1 | C5H11NO
reactant | cyanuric chloride | 0.098 mmol, 18 mg, 1.2 equiv. | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | 4-Chloro-phenyl-amine | 0.098 mol, 12 mg, 1.2 equiv. | ClC1=CC=C(C=C1)N | C6H6ClN
solvent | acetone | 0.9 ml | CC(=O)C | C3H6O
product | 1-(5-Chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carboxylic acid (4-chloro-phenyl)-amide | ClC1=CC=C(C=C1)NC(=O)C1=CC=C2CCN(C2=C1)S(=O)(=O)C1=C(C=CC(=C1)Cl)OC | C22H18Cl2N2O4S
